US04450166
Using the procedure of Example 2, ethyl ethoxymethylene malonate and 4-methylthio-aniline were reacted and treated with phenyl oxide to obtain ethyl 6-methylthio-4-hydroxy-3-quinoline-carboxylate melting at >260° C.

reactant | ethyl ethoxymethylene malonate | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 4-methylthio-aniline | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | phenyl oxide | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6-methylthio-4-hydroxy-3-quinoline-carboxylate | CSC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C13H13NO3S
